US03931174
2-Methylsulfinylmethyl-3-Carbomethoxy-quinoxaline 1,4-Dioxide
A solution of m-chloroperbenzoic acid (9.4 g., 0.0465 m of 85 percent material) in chloroform (75 ml.) was added dropwise to a solution of 2-methylthiomethyl-3-carbomethoxyquinoxaline 1,4-dioxide (13.0 g. 0.0465 m) in chloroform (100 ml.). The mixture was stirred for one hour and then added dropwise, with stirring, to diethyl ether (1.1 liters). The yellow solid which precipitated was filtered off, washed with diethyl ether (50 ml.) and then with hexane (100 ml.) and dried. Yield = 13.4 g., 97 percent of product: m.p. 141°-142°C.

reactant | m-chloroperbenzoic acid | 9.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methylthiomethyl-3-carbomethoxyquinoxaline 1,4-dioxide | 13.0 g | CSCC1=[N+](C2=CC=CC=C2[N+](=C1C(=O)OC)[O-])[O-] | C12H12N2O4S
reactant | diethyl ether | 1.1 liters | C(C)OCC | C4H10O
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methylsulfinylmethyl-3-Carbomethoxy-quinoxaline 1,4-Dioxide | CS(=O)CC1=[N+](C2=CC=CC=C2[N+](=C1C(=O)OC)[O-])[O-] | C12H12N2O5S
